Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Fiorinal / aspirin / erythromycin base / latex
 
Attending: ___
 
Chief Complaint:
Prolapse
 
Major Surgical or Invasive Procedure:
Total vaginal hysterectomy, uterosacral ligament suspension, 
anterior posterior repair, cystoscopy 

 
History of Present Illness:
___ G3P3 postmenopausal female who presents for evaluation of
pelvic pressure, palpable prolapse.

She does have sensation of bulge or pressure or tissue
protrusion in vagina. Bulge does not protude beyond introitus 
but
can sometimes be felt when wiping with toilet paper. Her 
symptoms
have been present for several years and are getting worse. She
has tried a pessary for 2 days only and strongly disliked it;
caused pain and was very uncomfortable.

She is sexually active.  Her prolapse problems do interfere with
intercourse.  She does experience vaginal dryness and
dyspareunia. She does not improvement on vaginal estrogen, 
though
she does not take it consistently. Previously was taking it
2x/week for 6 months last year.

She does report rare urinary leakage, typically only with
exercise.  She voids ___ times during the daytime.  When
sleeping, she awakens 1 times to void.  She never experiences
urinary urgency, and never has episodes of urge incontinence. 
She does have awareness of when she is leaking.  She does report
continuous loss of urine.  She does/ not note post void
dribbling. She wears 1 pantyliner every day.

She has a history of microscopic hematuria, but denies frank
hematuria. Had normal renal ultrasound and cystoscopy with Dr.
___ in ___. Urine dipstick today is negative for blood.

She also has a recent history of 2 episodes of
spotting/post-menopausal bleeding in the past year. Underwent
normal endometrial biopsy in ___. Had a pelvic ultrasound
then that showed 0.6cm endometrium with several small cystic
areas and small 0.5cm posterior fundal mass likely fibroid.

She denies recurrent UTIs, a history of bladder/renal
stones, dysuria, pain or pressure with voiding, feeling of
incomplete emptying, straining to void.  Her urine
stream is normal.  She does not splint to urinate and/or
defecate.

She sometimes has constipation, diet related. Denies fecal
incontinence.

 
Past Medical History:
PAST MEDICAL HISTORY:
- Epilepsy: typically grand mal seizures, irregular, frequency
sometimes ___ years apart, onset around menarche, worsened 
around
menopause, triggered by stress and poor sleep 
- Low back pain
- Hypertension: not currently on meds
- Migraines
- Anxiety

PAST SURGICAL HISTORY
- Laparoscopic cholecystecomy, ___, ___

PAST OBSTETRICAL HISTORY
No. of pregnancies: 3
No. of live births: 3
No. of vaginal deliveries: 3, including Forceps-assisted 
No. of cesarean sections: 0
Largest infant: 6 lbs 12 oz

PAST GYNECOLOGIC HISTORY
Age at menopause: ___
Sexually Active: Yes, rarely, limited by pain and prolapse 
Pain with intercourse: Yes
Post-menopausal bleeding: Yes, in past year, had negative EMB

Preventative Maintenance
Last pap:  ___   Result: normal

 
Social History:
___
Family History:
FAMILY HISTORY:
- Father with MI, HTN, stroke, and Hodgkins disease
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Pertinent Results:
None
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing Total vaginal hysterectomy, uterosacral 
ligament suspension, anterior posterior repair, cystoscopy. 
Please see the operative report for full details.

Immediately post-op, her pain was controlled with IV dilaudid 
and toradol. On post-operative day 1, her urine output was 
adequate and her Foley was removed with a voiding trial, the 
results of which are as follows:
1. Instilled 300 mL, voided 125 mL with 200 mL residual.
2. Spontaneous void 25 mL with 330 mL residual. 
3. Spontaneous void ___ mL with 640 mL residual.
4. Instilled 300 mL, voided spontaneously, but with high PVR. 
Foley catheter was not replaced and patient was taught how to 
self-catheterize. She was sent home with self-catheterizing 
supplies and a prescription for Macrobid with plans to follow-up 
in office in 1 week. 

Her diet was advanced without difficulty and she was 
transitioned to PO dilaudid, ibuprofen, acetaminophen, flexeril. 
By post-operative day #2, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
lamictal, (225mg in AM, 300mg in ___, keppra 1500mg BID
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
DO not take more than 4000mg acetaminophen in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*40 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*40 Tablet Refills:*2
3. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*2
4. Keppra (levETIRAcetam) 1500 mg oral BID 
5. LaMICtal (lamoTRIgine) 300 mg oral DAILY 
6. LaMOTrigine (lamoTRIgine) 225 mg ORAL DAILY 
7. Lorazepam 0.5 mg PO TID 
8. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
do not drive while taking, use with stool softener
 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four hours Disp #*35 Tablet Refills:*0
9. Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
daily Disp #*7 Capsule Refills:*0
10. Cyclobenzaprine 10 mg PO TID:PRN pain 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth three times a day 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

*) You were discharged home with straight cath supplies to help 
keep your bladder empty and received teaching for it prior to 
discharge. You were also given a prescription for Macrodantin 
(nitrofurantoin) antibiotic to prevent a UTI while you are using 
the catheters. Please take as prescribed.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___